US05430024
N-[3-[(Benzyloxy)carbonyl]-N-[N-(t-butoxycarbonyl)-β-alanyl]-L-alanyl]-3-phenyl-L-alanine benzyl ester was deprotected and coupled with 5-cyano-2-pyridinecarboxylic acid to give N-[3-[(benzyloxy)carbonyl]-N-[N-[(5-cyano-2-pyridyl)carbonyl]-β-alanyl]-L-alanyl]-3-phenyl-L-alanine benzyl ester, m.p. 157°-158° C.

reactant | N-[3-[(Benzyloxy)carbonyl]-N-[N-(t-butoxycarbonyl)-β-alanyl]-L-alanyl]-3-phenyl-L-alanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(CCNC(=O)OC(C)(C)C)=O)CC(=O)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C35H41N3O8
reactant | 5-cyano-2-pyridinecarboxylic acid | C(#N)C=1C=CC(=NC1)C(=O)O | C7H4N2O2
product | N-[3-[(benzyloxy)carbonyl]-N-[N-[(5-cyano-2-pyridyl)carbonyl]-β-alanyl]-L-alanyl]-3-phenyl-L-alanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(CCNC(=O)C1=NC=C(C=C1)C#N)=O)CC(=O)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C37H35N5O7
